US04010177
In the manner given in Preparation 48, 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine, potassium iodide, and piperidine in tetrahydrofuran are reacted to give 8-chloro-1-(piperidinomethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12Cl2N4
reactant | potassium iodide | [I-].[K+]
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-1-(piperidinomethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN3CCCCC3)C3=CC=CC=C3)C1 | C22H22ClN5
